US07423052B2
Description 114. (S)-2-Methoxycarbonylmethyl-pyrrolidine-1-carboxylic acid tert-butyl ester
A solution of (S)-2-carboxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (2.00 g) in methanol (1.32 ml)/acetonitrile (40 ml) was treated with N,N-diisopropylethylamine (1.78 ml). Trimethylsilyldiazomethane, (2M, 8.73 ml) was added dropwise and the resulting mixture was stirred at room temperature, under argon for 24 h. The mixture was diluted with ethyl acetate, washed with 2M HCl, saturated aqueous sodium hydrodgen carbonate, brine then dried (magnesium sulfate). The solvent was removed under reduced pressure to afford the title compound (2.10 g)

reactant | (S)-2-carboxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.00 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CC(=O)O | C11H19NO4
reactant | acetonitrile | 40 ml | C(C)#N | C2H3N
reactant | N,N-diisopropylethylamine | 1.78 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Trimethylsilyldiazomethane | 2M, 8.73 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol | 1.32 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-2-Methoxycarbonylmethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.10 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CC(=O)OC | C12H21NO4
